US08809342B2
Step C: (R)-2-methyl-N—((R)-3-methyl-1-(4′-(trifluoromethyl)biphenyl-4-yl)butyl)propane-2-sulfinamide
A round bottom flask was charged with (R,E)-2-methyl-N-((4′-(trifluoromethyl) biphenyl-4-yl)methylene)propane-2-sulfinamide (25.0 g, 70.7 mmol) and tetrahydrofuran (140 mL) and cooled down to −78° C. To this solution was added isobutyllithium (1.6M in heptane; 50.8 mL) dropwise over 20 minutes. The reaction was allowed to stir at −78° C. for 30 minutes. LC-MS analysis showed complete conversion of the starting material and the formation of two product diastereomers (4.6:1). The reaction was quenched with saturated ammonium chloride and extracted with ethyl acetate twice. The combined organic layers were washed with water and brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. Purification by column chromatography (1-10% ethyl acetate/dichloromethane) allowed isolation of the major isomer (the less polar isomer), (R)-2-methyl-N—((R)-3-methyl-1-(4′-(trifluoromethyl)biphenyl-4-yl)butyl)propane-2-sulfinamide (47.5 g, 74.2%) as a colorless gum. 1H NMR (400 MHz, CDCl3, δ): 0.91 (d, 3 H) 0.96 (d, J=6.44 Hz, 3 H) 1.24 (s, 9 H) 1.49-1.59 (m, 1 H) 1.63-1.72 (m, 1 H) 1.84-1.94 (m, 1 H) 3.38 (br. s., 1 H) 4.46 (dd, J=8.19, 6.83 Hz, 1 H) 7.43-7.46 (m, 2 H) 7.56-7.60 (m, 2 H) 7.68-7.70 (m, 4 H). MS (M+1): 412.3.

reactant | (R,E)-2-methyl-N-((4′-(trifluoromethyl) biphenyl-4-yl)methylene)propane-2-sulfinamide | 70.7 mmol, 25.0 g | CC(C)(C)[S@@](=O)/N=C/C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C18H18F3NOS
reactant | isobutyllithium | 1.6M, 50.8 mL | C(C(C)C)[Li]
solvent | tetrahydrofuran | 140 mL | O1CCCC1 | C4H8O
product | (R)-2-methyl-N—((R)-3-methyl-1-(4′-(trifluoromethyl)biphenyl-4-yl)butyl)propane-2-sulfinamide | CC(C)(C)[S@@](=O)N[C@H](CC(C)C)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C22H28F3NOS
